US06855722B2
g) 3-(5-{2-[N-(4,5-Dihydro-1H-imidazol-2-yl)-aminooxy]-ethoxy}-indol-1-yl)-3-phenyl-propionic acid ethyl ester
3-[5-(2-aminooxy-ethoxy)-indol-1yl]-3-phenyl-propionic acid ethyl ester (208 mg, 0.56 mmol) and 2-(3,5-dimethylpyrazolyl)-4,5-dihydroimidazole hydrobromide (125 mg, 0.90 mmol) were dissolved in methanol (3 mL) and stirred for 5 days. The solvent was evaporated under vacuum and the crude mixture was purified via column chromatography with silica gel, eluting with 10% methanol in dichloromethane to afford the title compound (99% yield). 1H NMR (CDCl3) δ 7.16-7.29 (m, 7H), 7.07 (d, 1H, J=2.3 Hz), 6.80 (dd, 1H, J=2.3, 8.8 Hz), 6.47 (d, 1H, J=3.2 Hz), 6.00 (t, 1H, J=7.0 Hz), 4.24 (m, 2H), 4.17 (m, 2H), 4.03 (c, 2H, J=7.2 Hz), 3.51 (br s, 4H), 3.26 (m, 2H), 1.09 (t, 3H, J=7.2 Hz).

reactant | 3-[5-(2-aminooxy-ethoxy)-indol-1yl]-3-phenyl-propionic acid ethyl ester | 0.56 mmol, 208 mg | C(C)OC(CC(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)OCCON)=O | C21H24N2O4
reactant | 2-(3,5-dimethylpyrazolyl)-4,5-dihydroimidazole hydrobromide | 0.90 mmol, 125 mg | Br.CC1=NNC(=C1C=1NCCN1)C
solvent | methanol | 3 mL | CO | CH4O
product | 3-(5-{2-[N-(4,5-Dihydro-1H-imidazol-2-yl)-aminooxy]-ethoxy}-indol-1-yl)-3-phenyl-propionic acid ethyl ester | 99% yield | C(C)OC(CC(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)OCCONC=1NCCN1)=O | C24H28N4O4
